US05801008
(1) Synthesis of 5-amino-1-phenyl-3-(thiophen-2-yl)pyrazole-4-carbonitrile
Using 2.06 g (10 mmol) of methylthio(thiophen-2-yl)methylenepropanedinitrile and 1.1 g (10 mmol) of phenylhydrazine, the entitled product having a melting point of 165° to 167° C. was obtained in the same manner as in Example 1-(1).

reactant | methylthio(thiophen-2-yl)methylenepropanedinitrile | 10 mmol, 2.06 g | CSC(C=1SC=CC1)=C(C#N)C#N | C9H6N2S2
reactant | phenylhydrazine | 10 mmol, 1.1 g | C1(=CC=CC=C1)NN | C6H8N2
product | 5-amino-1-phenyl-3-(thiophen-2-yl)pyrazole-4-carbonitrile | NC1=C(C(=NN1C1=CC=CC=C1)C=1SC=CC1)C#N | C14H10N4S
